US04410529
6.0 g (31.7 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone and 6.6 g (38.1 millimoles) of 2,2-dichlorocyclopropanecarboxylic acid chloride in 100 ml of absolute tetrahydrofuran are refluxed for 6 hours. The product is filtered off at 10° C., washed first with tetrahydrofuran and then with water, and recrystallized from dimethylformamide/water. 7.5 g (73% of theory) of 6-[p-(2,2-dichlorocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone are obtained as colorless crystals, of melting point 267°-268° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone | 31.7 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | 2,2-dichlorocyclopropanecarboxylic acid chloride | 38.1 millimoles, 6.6 g | ClC1(C(C1)C(=O)Cl)Cl | C4H3Cl3O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-[p-(2,2-dichlorocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | 7.5 g, 73% | ClC1(C(C1)C(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O)Cl | C14H13Cl2N3O2
